US06900215B2
Tin(II) chloride (11.86 g, 62.6 mmol) was added portionwise over 5 min to a stirred mixture of 3-(2-methyl-5-nitrophenyl)pyridine (2.86 g, 15.0 mmol) in EtOH (100 ml) and 1,4-dioxane (100 ml) at 0° C. The mixture was then stirred overnight, gradually warming to room temperature, and then concentrated under reduced pressure. 20% Aqueous NH3 solution (200 ml) and EtOH (300 ml) were added and again the mixture concentrated under reduced pressure. EtOAc (300 ml) was added and the mixture heated to reflux, the solids were filtered off and the process repeated twice more. The combined organic filtrates were concentrated under reduced pressure and the resulting crude residue was purified by column chromatography on silica, using 3% MeOH in dichloromethane as the eluent, to yield 4-methyl-3-(pyridin-3-yl)phenylamine (1.22 g, 44%): δH (360 MHz, CDCl3) 2.15 (3H, s), 6.56 (1H, d, J 2.4), 6.65 (1H, dd, J 8.0 and 2.4), 7.07 (1H, d, J 8.1), 7.31 (1H, dd, J 7.8 and 4.7), 7.62 (1H, dt, J 7.8 and 2.0), 8.53-8.60 (2H, m); m/z (ES+) 185 (M++H).

reactant | Tin(II) chloride | 62.6 mmol, 11.86 g | [Sn](Cl)Cl
reactant | 3-(2-methyl-5-nitrophenyl)pyridine | 15.0 mmol, 2.86 g | CC1=C(C=C(C=C1)[N+](=O)[O-])C=1C=NC=CC1 | C12H10N2O2
solvent | EtOH | 100 ml | CCO | C2H6O
solvent | 1,4-dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 4-methyl-3-(pyridin-3-yl)phenylamine | 1.22 g, 44% | CC1=C(C=C(C=C1)N)C=1C=NC=CC1 | C12H12N2
